US07253190B2
Following the procedure described in EXAMPLE 1 for the synthesis of 2-[2-(3-chlorophenyl)-2H-tetrazol-5-yl]pyridine, 3-bromoaniline (223 mg, 1.3 mmol) and pyridine-2-carboxaldehyde (135 mg, 1.3 mmol) were employed to obtain 2-[2-(3-bromophenyl)-2H-tetrazol-5-yl]pyridine as an orange solid.

reactant | 2-[2-(3-chlorophenyl)-2H-tetrazol-5-yl]pyridine | ClC=1C=C(C=CC1)N1N=C(N=N1)C1=NC=CC=C1 | C12H8ClN5
reactant | 3-bromoaniline | 1.3 mmol, 223 mg | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | pyridine-2-carboxaldehyde | 1.3 mmol, 135 mg | N1=C(C=CC=C1)C=O | C6H5NO
product | 2-[2-(3-bromophenyl)-2H-tetrazol-5-yl]pyridine | BrC=1C=C(C=CC1)N1N=C(N=N1)C1=NC=CC=C1 | C12H8BrN5
